US08202865B2
Step 1: methyl 3-cyano-4-fluorobenzoate
Triphenylphosphine polymer bound (200 mg; 0.60 mmol; 0.15 eq.), palladium (II) acetate (60.17 mg; 0.27 mmol; 0.07 eq.) and DMF (12 mL) were first mixed in a microwave vial, purged with N2 and let stirring at RT for 2 h. The vial was then opened, zinc cyanide (469.70 mg; 4 mmol; 1 eq.) and methyl 5-bromo-2-fluorobenzoate, prepared from literature procedure starting from 5-bromo-2-fluorobenzoic acid (COMBI-BLOCKS; CA-4097) (932.15 mg; 4 mmol; 1 eq.), were added and the resulting mixture was purged once more and sealed. It was then heated in the microwave at 140° C. for 50 min. The reaction mixture was filtrated through a glass frit and the resin was washed with Et2O (3×10 mL). The combined organic solutions were washed with water (3×5 mL), once with NaCl sat. solution (10 mL) and then dried over magnesium sulfate. Evaporation of the solvents gave the title compound as a white solid (638 mg; 89%). 1H NMR (DMSO-d6, 300 MHz) δ 8.35 (dd, J=6.8, 2.2 Hz, 1H), 8.2-8.17 (m, 1H), 7.63 (dd, J=10.6. 8.6 Hz, 1H), 3.89 (s, 3H). GC/MS: 179. HPLC (Method A), Rt 2.74 min (purity: 93.9%).

reactant | Triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 5-bromo-2-fluorobenzoate | BrC=1C=CC(=C(C(=O)OC)C1)F | C8H6BrFO2
reactant | 5-bromo-2-fluorobenzoic acid | 4 mmol, 932.15 mg, 1 eq. | BrC=1C=CC(=C(C(=O)O)C1)F | C7H4BrFO2
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 0.27 mmol, 60.17 mg, 0.07 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | zinc cyanide | 4 mmol, 469.70 mg, 1 eq. | [C-]#N.[Zn+2].[C-]#N
product | methyl 3-cyano-4-fluorobenzoate | 638 mg, 89% | C(#N)C=1C=C(C(=O)OC)C=CC1F | C9H6FNO2
